US09023847B2
24. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(furan-2-ylmethylsulfanyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(furfurylthio)ethylamine of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 399 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.92 (1H, br. s.) 10.46 (1H, s) 8.29 (1H, t, J=5.71 Hz) 8.06 (1H, d, J=6.05 Hz) 7.84 (1H, d, J=5.37 Hz) 7.56 (1H, td, J=1.10, 0.54 Hz) 7.44 (1H, d, J=5.37 Hz) 7.38 (1H, dd, J=3.51, 1.76 Hz) 6.80 (1H, d, J=6.15 Hz) 6.57 (1H, d, J=3.32 Hz) 6.36 (1H, dd, J=3.17, 1.90 Hz) 6.28 (1H, dd, J=3.22, 0.59 Hz) 3.78 (2H, s) 3.36-3.44 (2H, m) 2.59 (2H, dd, J=7.96, 6.20 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(furfurylthio)ethylamine | C(C1=CC=CO1)SCCN | C7H11NOS
reactant | 1-BOC-3-aminopyrrolidine | C(=O)(OC(C)(C)C)N1CC(CC1)N | C9H18N2O2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(furan-2-ylmethylsulfanyl)-ethyl]-amide | O1C(=CC=C1)CSCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C19H18N4O2S2
